US07553837B2
Step 1: Production of (±)-2-(5-nitro-2,4,6,7-tetramethyldihydrobenzofuran-2-ylmethyl)-2,3,4,9-tetrahydro-1-H-beta-carboline
2.0 g of 2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran-2-aldehyde, 1.52 g of 2,3,4,9-tetrahydro-1H-beta-carboline, 50 ml of methylene chloride, 0.8 ml of acetic acid and 2.04 g of sodium triacetoxyborohydride were added, followed by stirring overnight at room temperature. The mixture was poured into ice-water and an aqueous sodium hydroxide solution was added. The reaction solution was extracted with chloroform, washed with saturated saline and dried over anhydrous magnesium sulfate and, after the solvent was distilled off under reduced pressure, the residue was purified by silica gel column chromatography (chloroform:ethyl acetate=50:1) to obtain 1.49 g of the objective product.

reactant | 2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran-2-aldehyde | 2.0 g | CC1(OC=2C(C1)C(C(=C(C2C)C)[N+](=O)[O-])C)C=O | C13H17NO4
reactant | 2,3,4,9-tetrahydro-1H-beta-carboline | 1.52 g | C1NCCC=2C3=CC=CC=C3NC12 | C11H12N2
reactant | sodium triacetoxyborohydride | 2.04 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 0.8 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | (±)-2-(5-nitro-2,4,6,7-tetramethyldihydrobenzofuran-2-ylmethyl)-2,3,4,9-tetrahydro-1-H-beta-carboline | 1.49 g | [N+](=O)([O-])C1=C(C(=C2C(CC(O2)(C)CN2CC=3NC4=CC=CC=C4C3CC2)C1C)C)C | C24H29N3O3
